US04533731
To 20 ml of diethyl ether solution containing 600 mg of magnesium powder was added dropwise a mixed solution consisting of 2.81 g of 1-(3-diethylaminopropyl)-3-amino-4-chloroindazole obtained by the same method as described in Example 1, 2.06 g of iso-propyl bromide and 20 ml of diethyl ether. Into the solution were introduced dried oxygen gas and dried carbon dioxide gas for 10 hours so as to reflux the solution, and the solution was left to stand for 12 hours. The pH of the solution was adjusted to 4.0 by adding dropwise sulfuric acid to the solution at 0° C. The solution was added with 50 ml of water and filtered. To the aqueous layer of the filtrate was added an aqueous potassium carbonate solution to separate crystals. The crystals were obtained by filtration and dried to give 1.01 g of 1-(3-diethylaminopropyl)-3-amino-4-hydroxyindazole having the following analytical values in a yield of 40%.

reactant | magnesium | 600 mg | [Mg] | Mg
reactant | 1-(3-diethylaminopropyl)-3-amino-4-chloroindazole | 2.81 g | C(C)N(CCCN1N=C(C2=C(C=CC=C12)Cl)N)CC | C14H21ClN4
reactant | iso-propyl bromide | 2.06 g | C(C)(C)Br | C3H7Br
reactant | oxygen | O=O | O2
reactant | carbon dioxide | C(=O)=O | CO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 ml | O | H2O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 1-(3-diethylaminopropyl)-3-amino-4-hydroxyindazole | 1.01 g, yield of 40% | C(C)N(CCCN1N=C(C2=C(C=CC=C12)O)N)CC | C14H22N4O
